US07338950B2
Synthesis of 4-(3-Trifluoromethylpyridin-2-yl)benzoic acid:
4-Bis(hydroxyl)boron-1-methylbenzoate (2.8 mmol) was dissolved in acetonitrile (2 ml) and added to a 5 ml microwave vessel. To the solution was 3.5 mmol of 2-chloro-3-trifluoromethylpyridine (633 mg), 34 mg of tetrakis(triphenylphosphine)-palladium(0). After stirring until dissolution, 8.4 mmol of potassium carbonate (1.16 g) was added, followed by 1 ml of water. The mixture was then heated at 160° C. for 300 seconds. After reaction completion, the solvents were evaporated under vacuum. The residue was dissolved in 2N KOH and THF and heated for 10 min. After hydrolysis, the THF was evaporated and the basic layer was washed with EtOAC. The aqueous layer was then acidified and extracted 3 times with EtOAc. The organic layers were combined and washed with water and brine. After drying, filtration and evaporation, the residue was prufied by HPLC to give of the target compound as a white solid (602 mg; 81%).

reactant | 2-chloro-3-trifluoromethylpyridine | 3.5 mmol, 633 mg | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | potassium carbonate | 8.4 mmol, 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 ml | O | H2O
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 34 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(3-Trifluoromethylpyridin-2-yl)benzoic acid | 602 mg, 81% | FC(C=1C(=NC=CC1)C1=CC=C(C(=O)O)C=C1)(F)F | C13H8F3NO2
